US04224344
A mixture of 9-γ-chloropropyl-9,10-dihydro-9,10-methanoanthracene (50 mg) and piperidine (0.1 ml) was heated at 100° C. for 3 hours. The reaction mixture was diluted with ethyl acetate, washed with water, dried over anhydrous sodium sulfate and evaporated to dryness to give 9-γ-piperidinopropyl-9,10-dihydro-9,10-methanoanthracene, which was converted into its hydrochloride. M.P. 280°-283° C.

reactant | 9-γ-chloropropyl-9,10-dihydro-9,10-methanoanthracene | 50 mg | ClCCCC12C3=CC=CC=C3C(C=3C=CC=CC13)C2 | C18H17Cl
reactant | piperidine | 0.1 ml | N1CCCCC1 | C5H11N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 9-γ-piperidinopropyl-9,10-dihydro-9,10-methanoanthracene | N1(CCCCC1)CCCC12C3=CC=CC=C3C(C=3C=CC=CC13)C2 | C23H27N
